US06255307B1
1. 5-Bromo-2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine
N-Bromosuccinimide (0.194 g, 1.09×10−3 mole) was added over 20 min to a mixture of 2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine (0.3 g, 1.04×10−3 mole) in dimethylsulfoxide (10 ml) and water (0.25 ml) below 15° C. The resulting reaction mixture was stirred at 15° C. for 1 hr, poured onto ice water (150 ml) and extracted with ethyl acetate (2×75 ml). The extract was then washed with 2 M sodium carbonate solution (50 ml) and water (100 ml), dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated in vacuo. The residue was purified by ‘flash chromatography’ using 5-13% ethyl acetate in cyclohexane as the eluent. Yield 0.183 g (48%), M.p. 222-224° C.

reactant | N-Bromosuccinimide | 1.09×10−3 mole, 0.194 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine | 1.04×10−3 mole, 0.3 g | NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)N | C10H7Cl3N4
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | 0.25 ml | O | H2O
product | 5-Bromo-2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine | BrC=1N=C(C(=NC1N)N)C1=C(C(=CC(=C1)Cl)Cl)Cl | C10H6BrCl3N4
